US04734508
A. 4-Keto-1-[(phenylmethoxy)carbonyl]-L-proline benzyl ester
5 g (0.02 mmol) of 4-keto-1-[(phenylmethoxy)carbonyl]-L-proline was dissolved in 50 ml dimethylformamide, 2.62 ml (0.022 mmol) of benzyl bromide and 3.59 g (0.026 mmol) of potassium carbonate were added. The reaction mixture was stirred for 1 hour followed by normal extractive work to give the title compound, 3.5 gm (49% yield), m.p. 55°-56° C.

reactant | 4-keto-1-[(phenylmethoxy)carbonyl]-L-proline | 0.02 mmol, 5 g | O=C1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)O | C13H13NO5
reactant | benzyl bromide | 0.022 mmol, 2.62 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.026 mmol, 3.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Keto-1-[(phenylmethoxy)carbonyl]-L-proline benzyl ester | 49% yield | C(C1=CC=CC=C1)OC([C@H]1N(CC(C1)=O)C(=O)OCC1=CC=CC=C1)=O | C20H19NO5
